US06525077B2
Chloromethyl 2-(2-(2-methoxyethoxy)-ethoxy)-ethoxy-acetate
This compound was prepared from 2-(2-(2-methoxyethoxy)-ethoxy)-ethoxy-acetic acid and chloromethyl chlorosulfate as described in the general procedure given in Synthetic Communications 14, 857-864 (1984). The resulting oil was purified by distillation in vacuo, b.p.: 130-132° C. at 0.06 mbar.

reactant | 2-(2-(2-methoxyethoxy)-ethoxy)-ethoxy-acetic acid | COCCOCCOCCOCC(=O)O | C9H18O6
reactant | chloromethyl chlorosulfate | S(=O)(=O)(OCCl)Cl | CH2Cl2O3S
product | Chloromethyl 2-(2-(2-methoxyethoxy)-ethoxy)-ethoxy-acetate | COCCOCCOCCOCC(=O)OCCl | C10H19ClO6
